US04960897
Preparation of 3-[N-methyl-N-(p-toluenesulfonyl)amino]-2-(6-methylpyridin- 2-yl)propene
To a mixture of 1.48 g of N-methyl-p-toluenesulfonamide, 1.0 g of 2-chloro-6-(l-chloromethylvinyl)pyridine (Compound No. I - 3), 0.05 g of tetra-n-butylammonium bromide and 15 ml of toluene, 4.3 g of an aqueous solution of 40% sodium hydroxide was added, and the whole mixture was stirred at 80° C. for 3 hours. The reaction mixture was subsequently washed with water and brine and dried over anhydrous potassium carbonate. After the solvent was distilled off, the residue was purified by silica gel column chromatography (eluted with benzene - ethyl acetate 15:1) to obtain 1.5 g of Compound No. 216 in Table 6.

reactant | N-methyl-p-toluenesulfonamide | 1.48 g | CNS(=O)(=O)C1=CC=C(C=C1)C | C8H11NO2S
reactant | 2-chloro-6-(l-chloromethylvinyl)pyridine | 1.0 g | ClC1=NC(=CC=C1)C(=C)CCl | C8H7Cl2N
reactant | sodium hydroxide | [OH-].[Na+]
reactant | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetra-n-butylammonium bromide | 0.05 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 3-[N-methyl-N-(p-toluenesulfonyl)amino]-2-(6-methylpyridin- 2-yl)propene | 1.5 g | CN(S(=O)(=O)C1=CC=C(C=C1)C)CC(=C)C1=NC(=CC=C1)C | C17H20N2O2S
